US04327026
A solution of 4.1 g (12.08 mmol) of 5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-1,3-dimethyl-2H-1,4-benzodiazepin-2-one in 150 ml of 2 N methanolic ammonia is treated with 5 g of Raney-nickel paste and the suspension is stirred in a hydrogen atmosphere for 24 hours. After filtration of the catalyst and removal of the solvent in vacuo, there is obtained 7-(1-aminoethyl)-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one as a foam of melting point 48°-50°.

reactant | 5-(o-fluorophenyl)-1,3-dihydro-7-[1-(hydroxyimino)ethyl]-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | 12.08 mmol, 4.1 g | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)C(C)=NO)C)=O)C | C19H18FN3O2
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 2 N, 150 ml | N | H3N
catalyst | Raney-nickel | 5 g | [Ni] | Ni
product | 7-(1-aminoethyl)-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | NC(C)C=1C=CC2=C(C(=NC(C(N2C)=O)C)C2=C(C=CC=C2)F)C1 | C19H20FN3O
